US04377695
7-[3-(3-Chlorophenyl)-2-oxo-benzimidazolin-1-yl]-enanthic acid
The product is produces as described in example 22 from 9 g. of 7-[3-(3-chlorophenyl)-2-oxo-benzimidazolin-1-yl]-enanthic acid ethyl ester and 1.76 g. of NaOH.

reactant | 7-[3-(3-chlorophenyl)-2-oxo-benzimidazolin-1-yl]-enanthic acid ethyl ester | C(C)OC(CCCCCCN1C(N(C2=C1C=CC=C2)C2=CC(=CC=C2)Cl)=O)=O | C22H25ClN2O3
reactant | NaOH | [OH-].[Na+]
product | 7-[3-(3-Chlorophenyl)-2-oxo-benzimidazolin-1-yl]-enanthic acid | ClC=1C=C(C=CC1)N1C(N(C2=C1C=CC=C2)CCCCCCC(=O)O)=O | C20H21ClN2O3
